US04093588
3,9-Bis-(3,5-di-tert.-butyl-4-hydroxybenzyl)-3,9-dioxo-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5,5]undecane
When the procedure of the above example is repeated employing diphenyl 3,5-di-tert-octyl-4-hydroxybenzylphosphonate, the resulting compound is 3,9-bis-(3,5-di-tert-octyl-4-hydroxybenzyl)-3,9-dioxo-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5,5]undecane.

reactant | diphenyl 3,5-di-tert-octyl-4-hydroxybenzylphosphonate | C(C)(C)(CC(C)(C)C)C=1C=C(CP(OC2=CC=CC=C2)(OC2=CC=CC=C2)=O)C=C(C1O)C(C)(C)CC(C)(C)C | C35H49O4P
reactant | 3,9-bis-(3,5-di-tert-octyl-4-hydroxybenzyl)-3,9-dioxo-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5,5]undecane | C(C)(C)(CC(C)(C)C)C=1C=C(CP2(OCC3(CO2)COP(OC3)(=O)CC3=CC(=C(C(=C3)C(C)(C)CC(C)(C)C)O)C(C)(C)CC(C)(C)C)=O)C=C(C1O)C(C)(C)CC(C)(C)C | C51H86O8P2
product | 3,9-Bis-(3,5-di-tert.-butyl-4-hydroxybenzyl)-3,9-dioxo-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5,5]undecane | C(C)(C)(C)C=1C=C(CP2(OCC3(CO2)COP(OC3)(=O)CC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C35H54O8P2
